US06057419
a) 5-Benzyloxycarbonylamino-2-[3-(benzyloxycarbonylamino)-propyl]-valeric acid
24.48 g (143.5 mmol) of benzyl chloroformate and 5N aqueous sodium hydroxide solution are simultaneously added in drops at 0° C. to 10 g (57.39 mmol) of 4-carboxy-1,7-diaminoheptane (produced according to: A. Reissert, Chem. Ber. 26, 2137 (1893); 27, 979 (1894)) in 150 ml of water, and the pH is kept at 10. It is stirred overnight at room temperature. It is extracted twice with 150 ml of ethyl acetate each. The aqueous phase is carefully acidified with 4N aqueous hydrochloric acid (pH 2) and extracted three times with 200 ml of ethyl acetate each. The organic phase is dried on magnesium sulfate and evaporated to the dry state in a vacuum.

reactant | benzyl chloroformate | 143.5 mmol, 24.48 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | 4-carboxy-1,7-diaminoheptane | 57.39 mmol | C(=O)(O)C(CCCN)CCCN | C8H18N2O2
solvent | water | 150 ml | O | H2O
product | 5-Benzyloxycarbonylamino-2-[3-(benzyloxycarbonylamino)-propyl]-valeric acid | C(C1=CC=CC=C1)OC(=O)NCCCC(C(=O)O)CCCNC(=O)OCC1=CC=CC=C1 | C24H30N2O6
